US04865618
Preparation of 3,5-dinitro-2,4-diethoxychlorobenzene
0.1 mole (27.15 g) of 3,5-dinitro-1,2,4-trichlorobenzene was heated to 75° C. in 110 ml of absolute ethanol. 0.2 mole of a 15% solution of sodium ethylate was added in absolute ethanol. Upon completion of the addition, the reaction mixture was heated for 30 minutes at 75° C. and then diluted with 300 g of an ice/water mixture. The expected product precipitated. After drying under vacuum and recrystallization from isopropyl ether, it melted at 78° C.

reactant | 3,5-dinitro-1,2,4-trichlorobenzene | 0.1 mole, 27.15 g | [N+](=O)([O-])C=1C(=C(C=C(C1Cl)[N+](=O)[O-])Cl)Cl | C6HCl3N2O4
reactant | sodium ethylate | CC[O-].[Na+]
reactant | ethanol | 110 ml | C(C)O | C2H6O
product | 3,5-dinitro-2,4-diethoxychlorobenzene | [N+](=O)([O-])C=1C(=C(C=C(C1OCC)[N+](=O)[O-])Cl)OCC | C10H11ClN2O6
